US05922527
Preparation of 1,3-bis(2-(dimethylamino)ethylthio)-2-propanol (4)
2-(Dimethylamino)ethanethiol hydrochloride (10.78 g, 78 mmole) was added portion-wise to a solution of sodium hydroxide (6.2 g, 155 mmole) in ethanol (40 mL) at 0° C. under nitrogen. A further portion of ethanol (20 mL) was added and the mixture stirred at this temperature for 10 minutes. 1,3-Dichloro-2-propanol (5.29 g, 41 mmole) was added dropwise. On completion of the addition, the reaction mixture was allowed to warm to room temperature and stirred for a further 2 hours. The precipitated solid was filtered off and the washed with ethanol. The filtrate was evaporated. The resulting oil was taken up into acetone, filtered and evaporated to give the desired product (8.90 g, 68%) as a pale yellow oil.

reactant | 2-(Dimethylamino)ethanethiol hydrochloride | 78 mmole, 10.78 g | Cl.CN(CCS)C
reactant | sodium hydroxide | 155 mmole, 6.2 g | [OH-].[Na+]
reactant | 1,3-Dichloro-2-propanol | 41 mmole, 5.29 g | ClCC(CCl)O | C3H6Cl2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1,3-bis(2-(dimethylamino)ethylthio)-2-propanol | 8.90 g, 68% | CN(CCSCC(CSCCN(C)C)O)C | C11H26N2OS2
